US04055597
A mixture of (4S)-4-hydroxy-2-nonynal (41.6 g., 0.27 mole) and dihydropyran (33.6 g., 0.4 mole) is cooled to 5° by means of an ice bath and is treated with 0.2 mole of concentrated sulfuric acid. This is allowed to warm to room temperature and stand 17 hours. It is then diluted with water. The oily product is taken up in ether, washed with sodium bicarbonate solution and water and dried over sodium sulfate. Distillation affords (4S)-4-(2-tetrahydropyranyloxy)-2-nonynal as a colorless oil.

reactant | (4S)-4-hydroxy-2-nonynal | 0.27 mole, 41.6 g | O[C@H](C#CC=O)CCCCC | C9H14O2
reactant | dihydropyran | 0.4 mole, 33.6 g | O1CCCC=C1 | C5H8O
reactant | sulfuric acid | 0.2 mole | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | (4S)-4-(2-tetrahydropyranyloxy)-2-nonynal | O1C(CCCC1)O[C@H](C#CC=O)CCCCC | C14H22O3
